US05741926
4-((Bromoacetyl)amino)benzonitrile
A solution of 4-aminobenzonitrile (5.0 g, 42.3 mmol) in a mixture of anhydrous DMF (30 mL) and anhydrous dioxane (30 mL) in a 250 mL 3-necked round-bottomed flask equipped with a constant addition funnel (60 mL) was cooled to 0° C. using an ice-bath. Bromoacetyl bromide (8.53 g, 3.7 mL, 42.3 mmol) was added dropwise, keeping the internal temperature between 0° and 5° C. over a 1/2 h period. After the addition of the bromoacetyl bromide was completed, the solution was warmed to rt, stirred overnight, and then the solution was slowly poured into 500 mL of ice-water, causing a pale brown solid to precipitate. The precipitate was filtered, washed with water, and then dried in a vacuum dessicator overnight to afford 7.78 g (77%) of the title compound as a pale brown solid, mp 166°-168° C.: 1H NMR (DMSO-d6) δ10.81 (s, 1H), 7.81-7.74 (m, 4H), 4.08 (s, 2H); 13C NMR (DMSO-d6) δ165.60, 142.75, 133.39, 119.28, 118.89, 105.60, 30.17; MS (EI, m/z) 238 (M+).

reactant | 4-aminobenzonitrile | 42.3 mmol, 5.0 g | NC1=CC=C(C#N)C=C1 | C7H6N2
reactant | DMF | 30 mL | CN(C)C=O | C3H7NO
reactant | Bromoacetyl bromide | 42.3 mmol, 3.7 mL, 8.53 g | BrCC(=O)Br | C2H2Br2O
solvent | dioxane | 30 mL | O1CCOCC1 | C4H8O2
product | 4-((Bromoacetyl)amino)benzonitrile | 7.78 g, 77% | BrCC(=O)NC1=CC=C(C#N)C=C1 | C9H7BrN2O
